US05710139
Methyl (R)-α-t-butoxycarbonylamino-6,7-dichloro-3-dimethylphosphonomethyl-2-quinolinepropionate (0.26 g, 0.5 mmol) was refluxed in 6M HCl (20 ml) for 4 h. The solvent was removed in vacuo and the residue was coevaporated 3 times with acetonitrile. The resulting powder was treated with water and chloroform, filtered off and finally recrystallized from methanol to give 0.11 g of (R)-α-amino-6,7-dichloro-3-(phosphonomethyl)-2-quinolinepropanoic acid. 1H NMR (D2O, 400 MHz): δ 3.15 (d,2H), 3.56 (dd,1H), 3.64 (dd,1H), 4.41 (m,1H), 7.91 (s,1H), 8.00 (s,1H), 8.02 (s,1H).

reactant | Methyl (R)-α-t-butoxycarbonylamino-6,7-dichloro-3-dimethylphosphonomethyl-2-quinolinepropionate | 0.5 mmol, 0.26 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)OC)CC1=NC2=CC(=C(C=C2C=C1CP(=O)(OC)OC)Cl)Cl | C21H27Cl2N2O7P
solvent | HCl | 6M, 20 ml | Cl | ClH
product | (R)-α-amino-6,7-dichloro-3-(phosphonomethyl)-2-quinolinepropanoic acid | 0.11 g | N[C@@H](C(=O)O)CC1=NC2=CC(=C(C=C2C=C1CP(=O)(O)O)Cl)Cl | C13H13Cl2N2O5P
